US07230001B1
4-[4-(methylamino)-3-nitrophenyl]-4-oxobutanoic acid
A solution of 20.0 g (0.0776 mol) of 4-(4-chloro-3-nitrophenyl)-4-oxobutanoic acid in 200 ml of 40% aqueous methylamine solution was stirred for 3 hours in a sealed vessel. Then the mixture was diluted with the same volume of water and acidified with acetic acid. The product precipitated was suction filtered, thoroughly washed with water and dried at 50° C. in a circulating air dryer. 18.5 g (95% of theoretical) of the desired compound were obtained in the form of yellow crystals.

reactant | 4-(4-chloro-3-nitrophenyl)-4-oxobutanoic acid | 0.0776 mol, 20.0 g | ClC1=C(C=C(C=C1)C(CCC(=O)O)=O)[N+](=O)[O-] | C10H8ClNO5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methylamine | 200 ml | CN | CH5N
solvent | water | O | H2O
product | 4-[4-(methylamino)-3-nitrophenyl]-4-oxobutanoic acid | CNC1=C(C=C(C=C1)C(CCC(=O)O)=O)[N+](=O)[O-] | C11H12N2O5
